US08212041B2
N-((6-ethynyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)-7-methoxy-1,5-naphthyridin-4-amine
To a solution of 7-methoxy-N-((6-(2-(triethylsilyl)ethynyl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)-1,5-naphthyridin-4-amine (0.360 g, 0.808 mmol) in acetic acid (8 mL) was added TBAF (1.21 ml, 1.21 mmol). The mixture was stirred at room temperature overnight, additional TBAF (1.21 ml, 1.21 mmol) was added and the mixture was heated to 50° C. for five hours. The mixture was concentrated and purified via MPLC (eluted with 0-10% (1:10:90 NH4OH:MeOH:DCM) in dichloromethane) to yield the product as an off-white solid. MS m/z=332.0 [M+1]+. Calc'd for C17H13N7O: 331.1.

reactant | 7-methoxy-N-((6-(2-(triethylsilyl)ethynyl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)-1,5-naphthyridin-4-amine | 0.808 mmol, 0.360 g | COC1=CN=C2C(=CC=NC2=C1)NCC1=NN=C2N1N=C(C=C2)C#C[Si](CC)(CC)CC | C23H27N7OSi
reactant | TBAF | 1.21 mmol, 1.21 ml | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | TBAF | 1.21 mmol, 1.21 ml | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
product | N-((6-ethynyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)-7-methoxy-1,5-naphthyridin-4-amine | C(#C)C=1C=CC=2N(N1)C(=NN2)CNC2=CC=NC1=CC(=CN=C21)OC | C17H13N7O
